US05109012
2-(2,6-Dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole-4-carboxaldehyde (2 g) and formylmethylene triphenylphosphorane (1.9 g) were heated under reflux in toluene for 4 hours. After removal of the solvent at reduced pressure the resulting residue was purified by column chromatography to give 3-[(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazol-4-yl]-2-propenal, m.p. 68°-69°. This compound (1.8 g) was then stirred with diaminomaleonitrile (0.6 g) in methanol containing a trace of p-toluenesulphonic acid for 4 hours. Removal of the solvent at reduced pressure and column chromatography gave 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-[3-(2-amino-1,2-dicyanoethenylimino)-2-propenyl]-2H-1,2,3-triazole, m.p. 207°-209°.

reactant | 2-(2,6-Dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole-4-carboxaldehyde | 2 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=N1)C=O | C10H4Cl2F3N3O
reactant | formylmethylene triphenylphosphorane | 1.9 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazol-4-yl]-2-propenal | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=N1)C=CC=O | C12H6Cl2F3N3O
